US07553973B2
Step 2: 7-(2-{[5-(1-Ethyl-1-hydroxypropyl)-1,3,4-thiadiazol-2-yl]amino}ethyl)-4-(4-fluorophenyl)-2H-chromen-2-one
A mixture of 3-(5-amino-1,3,4-thiadiazol-2-yl)pentan-3-ol (0.129 g, 0.689 mmol), 4-(4-fluorophenyl)-2-oxo-2H-chromene-7-carbaldehyde (0.200 g, 0.746 mmol) and acetic acid (7.94 μL, 0.138 mmol) in benzene (2.5 mL) was stirred overnight at reflux with a Dean-Stark trap. After cooling, the mixture was diluted in THF (5 mL) and sodium triacetoxyborohydride (0.731 g, 3.45 mmol) was added. The mixture was then stirred at 45° C. for 3 h. The reaction was quenched with a saturated NaHCO3 solution and portioned between EtOAc and water. The organic layer was dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (Hexane-EtOAc-MeOH, 50:50:0 to 0:98:2) to yield the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.7 (m, 2H), 7.5 (s, 1H), 7.45 (s, 1H), 7.4 (m, 3H), 6.35 (s, 1H), 4.75 (s, 2H), 4.5 (bs, 1H), 2.0-1.75 (m, 4H), 0.9 (t, 6H).

reactant | 3-(5-amino-1,3,4-thiadiazol-2-yl)pentan-3-ol | 0.689 mmol, 0.129 g | NC1=NN=C(S1)C(CC)(CC)O | C7H13N3OS
reactant | 4-(4-fluorophenyl)-2-oxo-2H-chromene-7-carbaldehyde | 0.746 mmol, 0.200 g | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)C=O)=O | C16H9FO3
reactant | acetic acid | 0.138 mmol, 7.94 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.45 mmol, 0.731 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | benzene | 2.5 mL | C1=CC=CC=C1 | C6H6
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(2-{[5-(1-Ethyl-1-hydroxypropyl)-1,3,4-thiadiazol-2-yl]amino}ethyl)-4-(4-fluorophenyl)-2H-chromen-2-one | C(C)C(CC)(O)C1=NN=C(S1)NCCC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C24H24FN3O3S
